US06110961
A mixture of 1.05 gm (3.85 mmole) of 3-tert-butoxyphenoxathiin, 3.53 gm (11.5 mmole) of potassium peroxymonosulfate compound [OXONE™] (Dupont), 1.14 gm (14 mmole) of sodium acetate, 20 mL of water, and 20 mL of tert-butanol was stirred overnight. The reaction was diluted with 50 mL of water and extracted with 3×75 mL of chloroform. The combined organic layers were then washed with 2×100 mL of water and concentrated in vacuo (water pump). The residue was then chromatographed on silica gel using methylene chloride to yield 0.89 gm of 3-tert-butoxyphenoxathiin 10,10-dioxide, m.p. 108-110°.

reactant | 3-tert-butoxyphenoxathiin | 3.85 mmole, 1.05 gm | C(C)(C)(C)OC=1C=CC=2SC3=CC=CC=C3OC2C1 | C16H16O2S
reactant | potassium peroxymonosulfate | 11.5 mmole, 3.53 gm | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | sodium acetate | 14 mmole, 1.14 gm | C(C)(=O)[O-].[Na+]
reactant | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | water | 50 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 3-tert-butoxyphenoxathiin 10,10-dioxide | 0.89 gm | C(C)(C)(C)OC=1C=CC=2S(C3=CC=CC=C3OC2C1)(=O)=O | C16H16O4S
